US05574016
A mixture of ethyl 4-(4-cyanophenoxy)butyrate (4.7 g) in tetrahydrofuran (23.5 ml) and 1N sodium hydroxide solution (40.2 ml) was refluxed for 2 hours under stirring. The reaction mixture was adjusted to pH≈2.0 with 10% hydrochloric acid, and the resulting precipitate was collected by filtration to give 4-(4-cyanophenoxy)butyric acid (4.06 g).

reactant | ethyl 4-(4-cyanophenoxy)butyrate | 4.7 g | C(#N)C1=CC=C(OCCCC(=O)OCC)C=C1 | C13H15NO3
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 23.5 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1N, 40.2 ml | [OH-].[Na+]
product | 4-(4-cyanophenoxy)butyric acid | 4.06 g | C(#N)C1=CC=C(OCCCC(=O)O)C=C1 | C11H11NO3
